US04762942
Phosphorodichloridic acid-2-bromopropyl ester
To a solution of 42 g of phosphorous oxychloride in 110 ml of carbon tetrachloride was added dropwise with stirring a solution of 25 g of 2-bromo-1-propanol in 25 ml of carbon tetrachloride. This mixture was stirred overnight, then taken to dryness, evaporated twice from toluene and dried. The residue was distilled on a Kugelrohr 75° C., 0.05 mm, giving 26.1 g of the desired compound as a colorless oil.

reactant | phosphorous oxychloride | 42 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-bromo-1-propanol | 25 g | BrC(CO)C | C3H7BrO
solvent | carbon tetrachloride | 110 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Phosphorodichloridic acid-2-bromopropyl ester | 26.1 g | BrC(COP(=O)(Cl)Cl)C | C3H6BrCl2O2P
